US03956310
3.6 Parts of 7-oxyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one (prepared from 7,14-diazadispiro[5.1.5.2]pentadecan-15-one by oxidation with hydrogen peroxide and sodium tungstate), 2.1 parts of phenyl isocyanate and a trace of 1,4-diazabicyclo[2.2.2]octane in 75 parts of dry benzene were heated at reflux for 18 hours. The solvent was evaporated in vacuo and the residue allowed to stand in 100 parts of water for 18 hours. The mixture was extracted thoroughly with chloroform and the extract washed with brine and dried over magnesium sulphate. Evaporation in vacuo afforded a solid material which was chromatographed on an alumina column to yield 7-oxyl-14-phenylcarbamoyl-7,14-diazadispiro[5.1.5.2]-pentadecan-15-one as pale red crystals of melting point 125° to 128°C. This material had the following elemental analysis by weight:

reactant | 7-oxyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one | ON1C2(CCCCC2)C(NC12CCCCC2)=O | C13H22N2O2
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 7-oxyl-14-phenylcarbamoyl-7,14-diazadispiro[5.1.5.2]-pentadecan-15-one | ON1C2(CCCCC2)C(N(C12CCCCC2)C(NC2=CC=CC=C2)=O)=O | C20H27N3O3
